US06518424B1
The 4-aminopyrimidine (1.0 equiv.) was dissolved in THF and acetic anhydride (5 equiv.) and triethylamine (1.5 equiv.) were added and the mixture was stirred at room temperature. The volatiles were removed in vacuo and the residue purified by preparative silica gel TLC to give the 4-acetamidopyrimidine.

reactant | 4-aminopyrimidine | 1.0 equiv. | NC1=NC=NC=C1 | C4H5N3
reactant | acetic anhydride | 5 equiv. | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 1.5 equiv. | C(C)N(CC)CC | C6H15N
solvent | THF | C1CCOC1 | C4H8O
product | 4-acetamidopyrimidine | C(C)(=O)NC1=NC=NC=C1 | C6H7N3O
